US06706663B2
Preparation of 5-Nitro-1,2-benzisothiazole-3-carboxylic acid chloride
To a stirred mixture of 5-nitro-1,2-benzisothiazole-3-carboxylic acid (5.5 g, 0.0246 mole) and ethylene dichloride (55 ml) is added thionyl chloride (2.92 g, 1.63 ml, 1.0 eq.), and the reaction mixture heated to 70° C. An additional portion of thionyl chloride (1.46 g, 0.82 ml, 0.5 eq) is added and heating at 70° C. continued for 2.5 hours. The cooled solution is concentrated in vacuo to afford the title compound which is identified by NMR and IR analysis, and used without further purification.

reactant | 5-nitro-1,2-benzisothiazole-3-carboxylic acid | 0.0246 mole, 5.5 g | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)C(=O)O)C1 | C8H4N2O4S
reactant | thionyl chloride | 1.63 ml, 2.92 g, 1.0 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 0.82 ml, 1.46 g, 0.5 eq | S(=O)(Cl)Cl | Cl2OS
solvent | ethylene dichloride | 55 ml | C(CCl)Cl | C2H4Cl2
product | 5-Nitro-1,2-benzisothiazole-3-carboxylic acid chloride | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)C(=O)Cl)C1 | C8H3ClN2O3S
